US07732448B2
Into 2 ml of N,N-dimethylformamide was resolved 0.2 g of 4-(2-butynyloxy)-5-fluoro-6-chloropyrimidine, 0.28 g of potassium carbonate and 0.15 g of 3-trifluoromethylpiperidine was added therein, and the mixture was stirred for 5 hours at 70° C. The reaction mixture was cooled to near room temperature, ethyl acetate was added therein, and the mixture was washed with a saturated sodium chloride aqueous solution three times. The organic layers were dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.28 g of 4-(2-butynyloxy)-5-fluoro-6-(3-methylpiperidino)pyrimidine (hereinafter, referred to as Compound (26)).

reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 4-(2-butynyloxy)-5-fluoro-6-chloropyrimidine | 0.2 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-trifluoromethylpiperidine | 0.15 g | FC(C1CNCCC1)(F)F | C6H10F3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-butynyloxy)-5-fluoro-6-(3-methylpiperidino)pyrimidine | 0.28 g | C(C#CC)OC1=NC=NC(=C1F)N1CC(CCC1)C | C14H18FN3O
